US04457925
5.0 g of 2-chloro-3,3-ethylenedioxy-5α-androst-1-en-17β-ol is stirred in 50 ml of dimethylformamide with 10 g of pyidinium dichromate for 17 hours at room temperature and then worked up as described in Example 10B. After evaporation, 5 g of 2-chloro-3,3-ethylenedioxy-5α-androst-1-en-17-one is obtained.

reactant | 2-chloro-3,3-ethylenedioxy-5α-androst-1-en-17β-ol | 5.0 g | ClC=1C2(C[C@@H]3CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3(C1)C)O)OCCO2 | C21H31ClO3
reactant | dichromate | 10 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-chloro-3,3-ethylenedioxy-5α-androst-1-en-17-one | 5 g | ClC=1C2(C[C@@H]3CC[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]3(C1)C)=O)OCCO2 | C21H29ClO3
